US08252820B2
F. 2-Benzyloxy-4-bromo-6-fluorophenylamine
To a solution of 2-benzyloxy-6-fluorophenylamine (7.29 g, 33.6 mmol) in MeOH/HOAc (3:1 v/v, 30 mL) at 0° C. is added bromine (2.2 mL, 47 mmol) in MeOH/HOAc (3:1 v/v, 4 mL) drop wise. After it is stirred for 4 h, the reaction is completed by LC/MS. The reaction mixture is concentrated, and the residue is stirred with EtOAc and 1N NaOH to dissolve solid. Additional base is added to make the aqueous alkaline, and then EtOAc layer is separated. The organic phase is washed with brine, dried and filtered. The concentrated residue is purified to give the title compound: 1H NMR (CDCl3) 7.39 (m, 5H), 6.86 (dd, 1H, J=9.8, 2.0 Hz), 6.81 (m, 1H), 5.05 (s, 2H), 3.77 (br s, 2H); MS (M+H)+=296, 298.

reactant | 2-benzyloxy-6-fluorophenylamine | 33.6 mmol, 7.29 g | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)F)N | C13H12FNO
reactant | bromine | 47 mmol, 2.2 mL | BrBr | Br2
solvent | MeOH HOAc | 30 mL | CO.CC(=O)O
solvent | MeOH HOAc | 4 mL | CO.CC(=O)O
product | 2-Benzyloxy-4-bromo-6-fluorophenylamine | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)Br)F)N | C13H11BrFNO
